### PR TITLE
[Merged by Bors] - feat(SimpleGraph): lemmas characterizing graphs that are not complete/empty

### PR DESCRIPTION
**Pull request by vlad902**
Two helper lemmas that I've found useful in several other PRs that characterize graphs that are neither complete nor empty.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -518,6 +518,14 @@ theorem adj_iff_exists_edge {v w : V} : G.Adj v w ↔ v ≠ w ∧ ∃ e ∈ G.ed
 theorem adj_iff_exists_edge_coe : G.Adj a b ↔ ∃ e : G.edgeSet, e.val = s(a, b) := by
   simp only [mem_edgeSet, exists_prop, SetCoe.exists, exists_eq_right]
 
+theorem exists_adj_of_ne_bot (h : G ≠ ⊥) : ∃ a b : V, G.Adj a b := by
+  contrapose! h
+  exact le_bot_iff.mp h
+
+theorem exists_adj_of_ne_top (h : G ≠ ⊤) : ∃ a b : V, a ≠ b ∧ ¬G.Adj a b := by
+  contrapose! h
+  exact eq_top_iff.mpr h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean]: Can you make them both iff? Also the second is missing a `not` in its name

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 2]
```diff
@@ -518,6 +518,18 @@ theorem adj_iff_exists_edge {v w : V} : G.Adj v w ↔ v ≠ w ∧ ∃ e ∈ G.ed
...
+  refine ⟨fun h ↦ ?_, fun ⟨a, b, hab⟩ ↦ ?_⟩
+  · contrapose! h
+    exact le_bot_iff.mp h
+  · grind [SimpleGraph.bot_adj]
+
+theorem ne_top_iff_exists_not_adj : G ≠ ⊤ ↔ ∃ a b : V, a ≠ b ∧ ¬G.Adj a b := by
+  refine ⟨fun h ↦ ?_, fun ⟨a, b, hne, hab⟩ ↦ ?_⟩
+  · contrapose! h
+    exact eq_top_iff.mpr h
+  · grind [SimpleGraph.top_adj]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean]: Does this work?
```suggestion
theorem ne_top_iff_exists_not_adj : G ≠ ⊤ ↔ ∃ a b : V, a ≠ b ∧ ¬G.Adj a b := by
  simp [eq_top_iff, SimpleGraph.le_def]
```

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 3]
```diff
@@ -518,6 +518,18 @@ theorem adj_iff_exists_edge {v w : V} : G.Adj v w ↔ v ≠ w ∧ ∃ e ∈ G.ed
 theorem adj_iff_exists_edge_coe : G.Adj a b ↔ ∃ e : G.edgeSet, e.val = s(a, b) := by
   simp only [mem_edgeSet, exists_prop, SetCoe.exists, exists_eq_right]
 
+theorem ne_bot_iff_exists_adj : G ≠ ⊥ ↔ ∃ a b : V, G.Adj a b := by
+  refine ⟨fun h ↦ ?_, fun ⟨a, b, hab⟩ ↦ ?_⟩
+  · contrapose! h
+    exact le_bot_iff.mp h
+  · grind [SimpleGraph.bot_adj]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean]: Same here with eq_bot_iff

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: No, since this is not an equality that simp lemma doesn't fire.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 3 above)
Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: (same as below)

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: What do you mean? simp automatically unfolds `Ne`

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: but `eq_top_iff` is an iff so it doesn't exactly match the LHS since it is an Ne.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: You must have misinterpreted the error locally: `eq_top_iff` was looping with `top_le_iff`. I have pushed the fix. Can you please do the same for `ne_bot_iff_exists_adj`?

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: I see--I was indeed misinterpreting. Thanks for showing me this golf!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge
